US05324611
A 13 weight percent butadiene styrene copolymer (50 grams), which was prepared by following the suspension polymerization procedure described above, was hydrogenated in toluene (250 milliliters) under 1,000 psi hydrogen using tris(triphenyl)phosphine rhodium chloride (0.9 gram) and triphenylphosphine (7 grams) at 100° C. for 3 days. The polymer was precipitated into methanol, filtered and then vacuum dried. The Tg of the resultant polymer was 60.3° C. compared with 58.1° C. of the starting polymer. The FTIR-, the 1H- and --C- NMR spectra were consistent with complete hydrogenation and disappearance of butadienyl double bonds. The olefinic bonds attributed to styrene aromatic groups were unchanged by this treatment. Thus, the butadienyl groups in the product were completely hydrogenated as evidenced by FTIR spectroscopy and NMR spectrometry.

reactant | hydrogen | [H][H] | H2
reactant | triphenylphosphine | 7 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 250 milliliters | C1(=CC=CC=C1)C | C7H8
product | butadiene styrene copolymer | 50 grams | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
